US05066680
A solution of 4-diethylamino-2-butynylamine (0.14 g) in benzene (2.5 ml) was added dropwise to a solution of 2-chloro-2-cyclohexyl-2-phenylacetyl chloride (0.27 g) in benzene (2.5 ml below 25° C. After being stirred at room temperature for 19.5 hours, the resulting precipitates were collected by filtration and recrystallized from a mixture of acetone and diethyl ether to give N-(4-diethylamino-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide hydrochloride (0.19 g).

reactant | 4-diethylamino-2-butynylamine | 0.14 g | C(C)N(CC#CCN)CC | C8H16N2
reactant | 2-chloro-2-cyclohexyl-2-phenylacetyl chloride | 0.27 g | ClC(C(=O)Cl)(C1=CC=CC=C1)C1CCCCC1 | C14H16Cl2O
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
product | N-(4-diethylamino-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide hydrochloride | 0.19 g | Cl.C(C)N(CC#CCNC(C(C1=CC=CC=C1)(C1CCCCC1)Cl)=O)CC | InChI=1S/C22H31ClN2O.ClH/c1-3-25(4-2)18-12-11-17-24-21(26)22(23,19-13-7-5-8-14-19)20-15-9-6-10-16-20;/h5,7-8,13-14,20H,3-4,6,9-10,15-18H2,1-2H3,(H,24,26);1H
